US07968572B2
Methyl 4-(hydroxymethyl)tetrahydro-2H-pyran-4-carboxylate
Under an atmosphere of argon, to a solution of lithium aluminum tri(tert-butoxy)hydride (1.93 g) in tetrahydrofuran (15 mL) was added a solution of dimethyl tetrahydro-2H-pyran-4,4-dicarboxylate (606 mg) in tetrahydrofuran (5 mL) and the mixture was stirred at room temperature for an hour. To the reaction mixture was added an an aqueous saturated sodium sulfate solution till being cloudy. An insoluble matter was filtered and the filtrate was concentrated. The obtained residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1→1:2→1:4→ethyl

reactant | dimethyl tetrahydro-2H-pyran-4,4-dicarboxylate | 606 mg | O1CCC(CC1)(C(=O)OC)C(=O)OC | C9H14O5
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Methyl 4-(hydroxymethyl)tetrahydro-2H-pyran-4-carboxylate | OCC1(CCOCC1)C(=O)OC | C8H14O4
